US04797493
20 g (80.6 mmol) of 5-(3,4-dimethoxybenzylidene)hydantoin, 17.8 g (96 mmol) of 2-ethylhexyl acrylate and 0.90 g (1.6 mmol) of potassium hydroxide were added to 150 ml of dimethylformamide, and the mixture was stirred at 110° C. for 2 hours. After cooling, the reaction solution was added with 200 ml of water and extracted with 500 ml of ethyl acetate. The extract was dried with sodium sulfate and then the solvent was distilled off under reduced pressure. The residue was recrystallized with toluene-n-hexane (1:1) and the precipitated crystals were dried to obtain 27.1 g of 2-ethylhexyl 4-(2,3-dimethoxyphenylmethylene)-2,5-dioxo-1-imidazolidinepropionate (yield: 77.8%).

reactant | 5-(3,4-dimethoxybenzylidene)hydantoin | 80.6 mmol, 20 g | COC=1C=C(C=C2C(NC(N2)=O)=O)C=CC1OC | C12H12N2O4
reactant | 2-ethylhexyl acrylate | 96 mmol, 17.8 g | C(C=C)(=O)OCC(CCCC)CC | C11H20O2
reactant | potassium hydroxide | 1.6 mmol, 0.90 g | [OH-].[K+]
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | 2-ethylhexyl 4-(2,3-dimethoxyphenylmethylene)-2,5-dioxo-1-imidazolidinepropionate | 27.1 g, yield: 77.8% | COC1=C(C=CC=C1OC)C=C1NC(N(C1=O)CCC(=O)OCC(CCCC)CC)=O | C23H32N2O6
